US07304081B2
A mixture of tert-butyl 1-(4-bromophenyl)cyclopropanecarboxylate (297.2 mg, 1.0 mmol), 2-oxo-pyrrolidine (1.2 mmol), copper(I) iodide (20.0 mg, 0.1 mmol), (trans)-cyclohexane-1,2-diamine (22.8 mg, 0.2 mmol) and potassium carbonate (300.0 mg, 2.17 mmol) was dearated under vacuum and then charged with nitrogen. To the mixture was added toluene (2.0 mL). The resulting mixture was heated at 100° C. for overnight. Then ethyl acetate (10 mL) was added to the mixture. The resulting mixture was filtered through a pad of celite, and the solid was washed with additional ethyl acetate. The filtrate was concentrated. The residue was purified by flash chromatography with ethyl acetate/heaxane to afford tert-butyl 1-[4-(2-oxo-pyrrolidin-1-yl)phenyl]cyclopropanecarboxylate.

reactant | tert-butyl 1-(4-bromophenyl)cyclopropanecarboxylate | 1.0 mmol, 297.2 mg | BrC1=CC=C(C=C1)C1(CC1)C(=O)OC(C)(C)C | C14H17BrO2
reactant | 2-oxo-pyrrolidine | 1.2 mmol | O=C1NCCC1 | C4H7NO
reactant | (trans)-cyclohexane-1,2-diamine | 0.2 mmol, 22.8 mg | [C@@H]1([C@@H](CCCC1)N)N | C6H14N2
reactant | potassium carbonate | 2.17 mmol, 300.0 mg | C([O-])([O-])=O.[K+].[K+]
catalyst | copper(I) iodide | 0.1 mmol, 20.0 mg | [Cu]I
solvent | ethyl acetate | 10 mL | C(C)(=O)OCC | C4H8O2
solvent | toluene | 2.0 mL | C1(=CC=CC=C1)C | C7H8
product | tert-butyl 1-[4-(2-oxo-pyrrolidin-1-yl)phenyl]cyclopropanecarboxylate | O=C1N(CCC1)C1=CC=C(C=C1)C1(CC1)C(=O)OC(C)(C)C | C18H23NO3
